US09233946B2
4′-Methoxy-N-[3-(1H-tetrazol-5-yl)phenyl]biphenyl-4-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, with 4′-methoxy[1,1′-biphenyl]-4-sulfonyl chloride (15.6 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 79% yield (16 mg). MS (ESI+) calcd mass for C20H17N5O3S 407.105210, found 407.105280.

reactant | 4′-methoxy[1,1′-biphenyl]-4-sulfonyl chloride | 0.055 mmol, 15.6 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 4′-Methoxy-N-[3-(1H-tetrazol-5-yl)phenyl]biphenyl-4-sulfonamide | 79% yield | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C20H17N5O3S
